US06127541
4-Ethylaminobenzonitrile
According to a similar manner to that in Reference Example 1, the title compound was synthesized from 4-fluorobenzonitrile and 70% aqueous ethylamine solution.

reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | ethylamine | C(C)N | C2H7N
product | 4-Ethylaminobenzonitrile | C(C)NC1=CC=C(C#N)C=C1 | C9H10N2
